US06100400
The present inventors have found that when the reaction is performed in a tertiary amine as both solvent and acid scavenger at elevated temperature, significantly higher yield is obtained. Namely, when 1-[(4-chlorophenyl)phenylmethyl]piperazine is reacted in a pressure vessel with ethyl 2-chloroethoxyacetate in triethylamine at 135° C. for 10 hours, ethyl [2-[4-[(4-chlorophenyl)phenylmethyl]-1-piperazinyl]ethoxy]acetate is obtained in 89% yield. When catalytic amounts of potassium iodide or tetrabutylammonium iodide are present in the reaction, slightly higher yield is obtained. If triisopropylamine or pyridine are used instead of triethylamine and the reaction is carried out at the same temperature at atmospheric pressure, a drop of 30-40% in the reaction yield is observed.

reactant | 1-[(4-chlorophenyl)phenylmethyl]piperazine | ClC1=CC=C(C=C1)C(N1CCNCC1)C1=CC=CC=C1 | C17H19ClN2
reactant | ethyl 2-chloroethoxyacetate | ClCCOCC(=O)OCC | C6H11ClO3
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | ethyl [2-[4-[(4-chlorophenyl)phenylmethyl]-1-piperazinyl]ethoxy]acetate | 89% yield | ClC1=CC=C(C=C1)C(N1CCN(CC1)CCOCC(=O)OCC)C1=CC=CC=C1 | C23H29ClN2O3
